US08563565B2
(2) Synthesis of ethyl 5-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate
A mixture of ethyl 5-(4-bromo-2-fluorophenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate (43.1 g), bis(pinacolato)diboron (34.3 g), Pd(dppf)Cl2-DCM complex (4.59 g) and potassium acetate (33.1 g) was dried under reduced pressure using a vacuum pump for one hour. A solution of dried residue in DMF (430 mL) was stirred at 80° C. for three hours and 10 minutes. The reaction mixture was returned to room temperature and then filtered through Celite™. The filtrate was concentrated under reduced pressure. Ethyl acetate (430 mL) and brine (200 mL) were added to the residue, followed by stirring for five minutes. The insoluble matter was filtered off through Celite™. The organic layer was separated from the filtrate. The aqueous layer was re-extracted with ethyl acetate (50 mL). The combined organic layers were dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 10% to 15%) to give the title compound (51.9 g).

reactant | ethyl 5-(4-bromo-2-fluorophenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 43.1 g | BrC1=CC(=C(C=C1)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC)F | C16H16BrFN2O3
reactant | bis(pinacolato)diboron | 34.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 33.1 g | C(C)(=O)[O-].[K+]
product | ethyl 5-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 51.9 g | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C22H28BFN2O5
